US07037908B2
N-(3-chloro-4-methylbenzyl)-2-(2,6-dimethoxyphenyl)-5-hydroxy-1-methyl-6-oxo-1,6-dihydropyrimidine-4-carboxamide.
Prepared according to the procedure described for example 2 from 2-(2,6-dimethoxy-phenyl)-5-hydroxy-1-methyl-6-oxo-1,6-dihydro-pyrimidine-4-carboxylic acid ethyl ester (50 mg, 0.15 mmol) and 3-chloro-4-methylbenzylamine (107 mg, 0.75 mmol). The title product was obtained as a pink solid (51.1 mg, 77% yield). 1HNMR (500 MHz, CDCl3) δ: 12.09 (1H, s), 7.92 (1H, t, J=5.50 Hz), 7.39 (1H, t, J=8.24 Hz), 7.28 (1H, d, J=1.22 Hz), 7.17 (1H, d, J=7.63 Hz), 7.10 (1H, dd, J=7.63, 1.53 Hz), 6.62 (2H, d, J=8.24 Hz), 4.49 (2H, d, J=6.40 Hz), 3.76 (6H, s), 3.28 (3H, s), 2.33 (3H, s). HRMS (ESI) calcd for C22H23ClN3O5 (M+H): 444.1326; found: 444.1327.

reactant | 2-(2,6-dimethoxy-phenyl)-5-hydroxy-1-methyl-6-oxo-1,6-dihydro-pyrimidine-4-carboxylic acid ethyl ester | 0.15 mmol, 50 mg | C(C)OC(=O)C=1N=C(N(C(C1O)=O)C)C1=C(C=CC=C1OC)OC | C16H18N2O6
reactant | 3-chloro-4-methylbenzylamine | 0.75 mmol, 107 mg | ClC=1C=C(CN)C=CC1C | C8H10ClN
product | N-(3-chloro-4-methylbenzyl)-2-(2,6-dimethoxyphenyl)-5-hydroxy-1-methyl-6-oxo-1,6-dihydropyrimidine-4-carboxamide | ClC=1C=C(CNC(=O)C=2N=C(N(C(C2O)=O)C)C2=C(C=CC=C2OC)OC)C=CC1C | C22H22ClN3O5
